US04931457
4-Nitro-3-(5,6,7,8-tetrahydro-1-naphthyloxy)pyridine-N-oxide
To 5,6,7,8-tetrahydro-1-naphthol (6.0 g) in DMF (100 ml) was added Na2CO3 (10 g) portionwise at room temperature. Then a solution of 3-fluoro-4-nitropyridine-N-oxide (6.0 g) in 20 ml of DMF was added dropwise and the mixture was stirred at room temperature for four hours. The mixture was then poured into water and extracted with ethyl acetate. The organic layer was washed with water and dried (sat NaCl, anhy. MgSO4).

reactant | 5,6,7,8-tetrahydro-1-naphthol | 6.0 g | C1(=CC=CC=2CCCCC12)O | C10H12O
reactant | Na2CO3 | 10 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-fluoro-4-nitropyridine-N-oxide | 6.0 g | FC=1C=[N+](C=CC1[N+](=O)[O-])[O-] | C5H3FN2O3
reactant | water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-Nitro-3-(5,6,7,8-tetrahydro-1-naphthyloxy)pyridine-N-oxide | [N+](=O)([O-])C1=C(C=[N+](C=C1)[O-])OC1=CC=CC=2CCCCC12 | C15H14N2O4
